US05753652
b) Quinoline-2-carbonyl-(L)-asparagine (hydrochloride salt)
Under a nitrogen atmosphere, 4.0 g (11.6 mmol) of quinoline-2-carbonyl-(L)-asparagine tert-butyl ester are dissolved in 40 ml of dioxane, and 40 ml of 4N HCl/dioxane are added. On stirring for 17 h at RT, the product is precipitated in the form of a solid. Filtration and washing with DIPE yields the pure title compound: 1H-NMR (200 MHz, CD3OD): 3.02 (d, J=6 Hz, 2H), 5.09 (t, J=6 Hz, 1H), 7.92 (m, 1H), 8.12 (m, 1H), 8.26 (m, 1H), 8.4 (m, 2H), 9.03 (m, 1H).

reactant | quinoline-2-carbonyl-(L)-asparagine tert-butyl ester | 11.6 mmol, 4.0 g | C(C)(C)(C)OC([C@@H](NC(=O)C1=NC2=CC=CC=C2C=C1)CC(N)=O)=O | C18H21N3O4
reactant | HCl dioxane | 4N, 40 ml | Cl.O1CCOCC1
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | Quinoline-2-carbonyl-(L)-asparagine | N1=C(C=CC2=CC=CC=C12)C(=O)N[C@@H](CC(N)=O)C(=O)O | C14H13N3O4
